US06090836
EXAMPLE 42 STEP A: Preparation of Methyl 3-fluoro-4-(3-bromopropyloxy)-phenylacetate
A solution of methyl 3-fluoro-4-hydroxyphenylacetate (25.545 grams) in 2-butanone (300 mL) was treated with 1,3-dibromopropane (48.79 mL) and potassium carbonate (50.859 grams). The mixture was refluxed for 4 hours. The reaction mixture was partitioned between isopropyl acetate and pH 4 buffer. The organic was washed once with water, then dried over magnesium sulfate. The organic was filtered and evaporated to an oil which was chromatographed over silica gel with hexane/methylene chloride (2:1) to afford the title compound. This compound was taken forward without further purification.

reactant | methyl 3-fluoro-4-hydroxyphenylacetate | 25.545 grams | FC=1C=C(C=CC1O)CC(=O)OC | C9H9FO3
reactant | 1,3-dibromopropane | 48.79 mL | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 50.859 grams | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 300 mL | CC(CC)=O | C4H8O
product | Methyl 3-fluoro-4-(3-bromopropyloxy)-phenylacetate | FC=1C=C(C=CC1OCCCBr)CC(=O)OC | C12H14BrFO3
